US04336264
5-(4-tert-BUTYLPHENYL)-3-ISOXAZOLECARBOXAMIDE
Ethyl 5-(4-tert-butylphenyl)-3-isoxazolecarboxylate (25 grams) was mixed with 1 liter of concentrated ammonium hydroxide, and the reaction mixture stirred overnight (about 18 hours) at room temperature. The reaction mixture was then poured into 1 liter of water. The product precipitated and was separated by filtration, yield, 34 grams. The structure of the product was confirmed by NMR.

reactant | Ethyl 5-(4-tert-butylphenyl)-3-isoxazolecarboxylate | 25 grams | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=NO1)C(=O)OCC | C16H19NO3
reactant | ammonium hydroxide | 1 liter | [OH-].[NH4+]
solvent | water | 1 liter | O | H2O
product | 5-(4-tert-BUTYLPHENYL)-3-ISOXAZOLECARBOXAMIDE | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=NO1)C(=O)N | C14H16N2O2
